US08071584B2
1-{[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thienyl]methyl}azetidine
A solution of azetidine (0.014 g, 0.252 mmol) in THF (1 mL) was added to a solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thiophenecarbaldehyde (0.05 g, 0.210 mmol) in THF (1 mL) in 1-Dram vial and let stir for 30 minutes. Sodium Cyanoborohydride Resin (0.128 g, 0.583 mol, 2.33 mmol/g)) was then added to the mixture and let stir 3 days. The mixture was then agitated for 3 hrs with MP-Isocyanate Resin (0.135 g, 0.230 mmol, 1.7 mmol/g) and THF (2 mL). The reaction was resubjected to the same amounts of Sodium Cyanoborohydride Resin and amine as above and stirred for 2 days. The resins were then filtered and solvent concentrated to give 0.035 g of the title compound.

reactant | azetidine | 0.252 mmol, 0.014 g | N1CCC1 | C3H7N
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thiophenecarbaldehyde | 0.210 mmol, 0.05 g | CC1(OB(OC1(C)C)C=1C=C(SC1)C=O)C | C11H15BO3S
reactant | Sodium Cyanoborohydride | 0.583 mol, 0.128 g | C(#N)[BH3-].[Na+]
reactant | Isocyanate | 0.230 mmol, 0.135 g | [N-]=C=O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-{[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thienyl]methyl}azetidine | 0.035 g | CC1(OB(OC1(C)C)C=1C=C(SC1)CN1CCC1)C | C14H22BNO2S
